* PSpice Model Editor - Version 16.2.0
*
*$
**********************************************************************
**********************************************************************
*
* CSD88599Q5DC	P-Spice Model
* Technology:	TI NexFET 60/20 n-channel
* Model Status:	Model extracted from measurements of typical device
* Assembly:		QFN5x6 Power Block Q5DC
*
* nFET SUBCKT Definition:  1=D  2=G  3=S
* SUBCKT Definition:  1=GH 2=SH 3=VSW 4=PGND 5=GL 6=VIN
**********************************************************************
* .SUBCKT  csd88599q5dc 1 2 3 4 5 6
.SUBCKT  csd88599q5dc GH SH VSW PGND GL VIN
XnfetHS   7   8   9  n38503
XnfetLS  10  11  12  n38503
RGhs      1  1a	   RcuTEMP 101e-3
RGls      5  5a	   RcuTEMP 126e-3
RGSHr     2  2a	   RcuTEMP 46.5e-3
RSW       3  3a	   RcuTEMP 0.055e-3
RHSsrc   13  9	   RcuTEMP 0.014e-3
RLSdrn   13  10	   RcuTEMP 0.0323e-3
Rpgnd     4  4a	   RcuTEMP 0.1035e-3
RVin      6   7	   RcuTEMP 0.0073e-3
LGhs     1a   8	   2.45e-9
LGls     5a  11	   3.07e-9
LGSHr    2a  13      1.13e-9
LSW      3a  13      0.17e-9
Lpgnd    4a  12	   0.24e-9
RLpnd    4a  12      2.0
RLSW     3a  13      2.0
Cghs	    8   9	   29.5e-12
CgdH	    7   8	   0.25e-12
CdsL 	   10  11	   4.0e-12
.MODEL RcuTEMP RES (TC1=4e-3)
.ENDS csd88599q5dc
*$
**********************************************************************
.SUBCKT n38503   1 2 3
.PARAM  ptrc1   5.77e-3
.PARAM  ptrc2   2.4e-5
.PARAM  pAA     12.4666423
.PARAM  pwidth  {pAA/1.9}
.PARAM  perim   {2.1*pwidth}
****** MODEL SUBCIRCUIT BEGINS HERE    ***************************
M1   10 11 12 12  NMOS	W={pwidth} L=0.42u  PS={perim} PD={perim}
xcgd	2  10	  1	3	cgd
cgs	2	  3		1.74e-09
xcds	3  10	  1	3	cds
DBD	3   1		DBD {pwidth/5.788667}
RGG   2  11	 	2.811
RSS  12   3	 	RTEMP 0.10e-3
RDD   4  10		RTEMP 1.1e-3
RDsub 1   4		RSUBT 0.047e-3
*******************************************************************
.MODEL  NMOS   NMOS (	LEVEL  = 7			VERSION = 3.2
+ CAPMOD = 2		TNOM	 = 25
+ TOX    = 4.00e-8	NCH    = 1.775e17		NSUB   = 1.0e16
+ NLX    = 1.74E-7	VBM    = -10		DVT0   = 2.2
+ DVT1   = 0.53		DVT2   = -0.032		U0     = 600
+ UA     = 2.7e-9		UB     = 5.0e-19		AGS	 = 0.0
+ A0     = 2.0		A1     = 0.0		A2     = 1.0
+ LINT   = 0.025e-6	VOFF   = -0.267		NFACTOR= 1.48
+ ETA0   = 0.005		ETAB   = -0.07		DSUB   = 0.7
+ PCLM   = 1.25		PDIBLC1= 0.02		PDIBLC2= 0.004
+ DROUT  = 0.7		PSCBE1 = 4.0e8		PSCBE2 = 1e-6
+ PVAG   = 0.1		DELTA  = 0.05		JS     = 0
+ KT1    = -0.90		KT2    = 0.022		UTE    = -1.5
+ UA1    = 0.9e-09	UB1    =-2.0e-19		KT1L   = 1.0e-15
+ XJ     = 3e-7		JS	  = 0			VSAT	 = 8.5e4
+ VOFFCV = -0.5
+ CGSO   = 20e-12		CGDO   = 2e-12		CGBO   = 1e-18
+ CJ     = 1e-18		CJSW   = 1e-18		CF     = 0     )
*******************************************************************
.MODEL DBD D (CJO=1.0e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.5 BV=60.6 TBV1=5.2e-4 TBV2=-2.5e-7
+ ISR=1.3e-09  IS=3.3e-12 N=1.02 RS=0.595e-3 TRS1=2.9e-3 NR=2.3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL RSUBT RES (TC1=2.4e-3)
*******************************************************************
.ENDS n38503
************
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	8.293E-10	)
+	(	0.5	8.326E-10	)
+	(	1	8.354E-10	)
+	(	1.5	8.364E-10	)
+	(	2	8.371E-10	)
+	(	2.5	8.3837E-10	)
+	(	3	8.4006E-10	)
+	(	3.5	8.4159E-10	)
+	(	4	8.4276E-10	)
+	(	4.5	8.4383E-10	)
+	(	5	8.4468E-10	)
+	(	5.5	8.4534E-10	)
+	(	6	8.4607E-10	)
+	(	6.5	8.4673E-10	)
+	(	7	8.4739E-10	)
+	(	7.5	8.4802E-10	)
+	(	8	8.4895E-10	)
+	(	8.5	8.5261E-10	)
+	(	9	8.5798E-10	)
+	(	9.5	8.6759E-10	)
+	(	10	8.7388E-10	)
+	(	10.5	8.7397E-10	)
+	(	11	8.7401E-10	)
+	(	11.5	8.7399E-10	)
+	(	12	8.7415E-10	)
+	(	12.5	8.7418E-10	)
+	(	13	8.7428E-10	)
+	(	13.5	8.7428E-10	)
+	(	14	8.7436E-10	)
+	(	14.5	8.7443E-10	)
+	(	15	8.7441E-10	)
+	(	15.5	8.7448E-10	)
+	(	16	8.7455E-10	)
+	(	16.5	8.7462E-10	)
+	(	17	8.747E-10	)
+	(	17.5	8.7467E-10	)
+	(	18	8.7466E-10	)
+	(	18.5	8.7478E-10	)
+	(	19	8.7472E-10	)
+	(	19.5	8.7481E-10	)
+	(	20	8.7482E-10	)
+	(	20.5	8.7481E-10	)
+	(	21	8.7485E-10	)
+	(	21.5	8.7484E-10	)
+	(	22	8.7484E-10	)
+	(	22.5	8.7474E-10	)
+	(	23	8.7477E-10	)
+	(	23.5	8.7475E-10	)
+	(	24	8.7469E-10	)
+	(	24.5	8.7471E-10	)
+	(	25	8.7471E-10	)
+	(	25.5	8.747E-10	)
+	(	26	8.7468E-10	)
+	(	26.5	8.7465E-10	)
+	(	27	8.7461E-10	)
+	(	27.5	8.7457E-10	)
+	(	28	8.7462E-10	)
+	(	28.5	8.7457E-10	)
+	(	29	8.7461E-10	)
+	(	29.5	8.7456E-10	)
+	(	30	8.745E-10	)
+	(	30.5	8.7454E-10	)
+	(	31	8.7447E-10	)
+	(	31.5	8.7451E-10	)
+	(	32	8.7444E-10	)
+	(	32.5	8.7447E-10	)
+	(	33	8.744E-10	)
+	(	33.5	8.7443E-10	)
+	(	34	8.7446E-10	)
+	(	34.5	8.7439E-10	)
+	(	35	8.7441E-10	)
+	(	35.5	8.7434E-10	)
+	(	36	8.7437E-10	)
+	(	36.5	8.7439E-10	)
+	(	37	8.7432E-10	)
+	(	37.5	8.7434E-10	)
+	(	38	8.7437E-10	)
+	(	38.5	8.7429E-10	)
+	(	39	8.7432E-10	)
+	(	39.5	8.7435E-10	)
+	(	40	8.7427E-10	)
+	(	40.5	8.743E-10	)
+	(	41	8.7433E-10	)
+	(	41.5	8.7426E-10	)
+	(	42	8.7429E-10	)
+	(	42.5	8.7432E-10	)
+	(	43	8.7435E-10	)
+	(	43.5	8.7428E-10	)
+	(	44	8.7432E-10	)
+	(	44.5	8.7435E-10	)
+	(	45	8.7439E-10	)
+	(	45.5	8.7433E-10	)
+	(	46	8.7436E-10	)
+	(	46.5	8.744E-10	)
+	(	47	8.7445E-10	)
+	(	47.5	8.7449E-10	)
+	(	48	8.7443E-10	)
+	(	48.5	8.7448E-10	)
+	(	49	8.7453E-10	)
+	(	49.5	8.7458E-10	)
+	(	50	8.7463E-10	)
+	(	50.5	8.7458E-10	)
+	(	51	8.7463E-10	)
+	(	51.5	8.7469E-10	)
+	(	52	8.7475E-10	)
+	(	52.5	8.748E-10	)
+	(	53	8.7486E-10	)
+	(	53.5	8.7482E-10	)
+	(	54	8.7488E-10	)
+	(	54.5	8.7494E-10	)
+	(	55	8.7501E-10	)
+	(	55.5	8.7507E-10	)
+	(	56	8.7513E-10	)
+	(	56.5	8.752E-10	)
+	(	57	8.7526E-10	)
+	(	57.5	8.7533E-10	)
+	(	58	8.753E-10	)
+	(	58.5	8.7536E-10	)
+	(	59	8.7543E-10	)
+	(	59.5	8.755E-10	)
+	(	60	8.7556E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	4.399E-10	)
+	(	0.5	3.951E-10	)
+	(	1	3.523E-10	)
+	(	1.5	3.277E-10	)
+	(	2	3.085E-10	)
+	(	2.5	2.896E-10	)
+	(	3	2.687E-10	)
+	(	3.5	2.485E-10	)
+	(	4	2.314E-10	)
+	(	4.5	2.170E-10	)
+	(	5	2.044E-10	)
+	(	5.5	1.930E-10	)
+	(	6	1.827E-10	)
+	(	6.5	1.730E-10	)
+	(	7	1.637E-10	)
+	(	7.5	1.502E-10	)
+	(	8	1.196E-10	)
+	(	8.5	7.818E-11	)
+	(	9	3.758E-11	)
+	(	9.5	3.022E-11	)
+	(	10	2.868E-11	)
+	(	10.5	2.716E-11	)
+	(	11	2.583E-11	)
+	(	11.5	2.463E-11	)
+	(	12	2.351E-11	)
+	(	12.5	2.247E-11	)
+	(	13	2.147E-11	)
+	(	13.5	2.051E-11	)
+	(	14	1.959E-11	)
+	(	14.5	1.869E-11	)
+	(	15	1.781E-11	)
+	(	15.5	1.696E-11	)
+	(	16	1.613E-11	)
+	(	16.5	1.532E-11	)
+	(	17	1.453E-11	)
+	(	17.5	1.376E-11	)
+	(	18	1.301E-11	)
+	(	18.5	1.230E-11	)
+	(	19	1.162E-11	)
+	(	19.5	1.091E-11	)
+	(	20	1.004E-11	)
+	(	20.5	9.185E-12	)
+	(	21	8.570E-12	)
+	(	21.5	8.230E-12	)
+	(	22	7.975E-12	)
+	(	22.5	7.775E-12	)
+	(	23	7.605E-12	)
+	(	23.5	7.465E-12	)
+	(	24	7.340E-12	)
+	(	24.5	7.235E-12	)
+	(	25	7.140E-12	)
+	(	25.5	7.060E-12	)
+	(	26	6.990E-12	)
+	(	26.5	6.930E-12	)
+	(	27	6.875E-12	)
+	(	27.5	6.830E-12	)
+	(	28	6.790E-12	)
+	(	28.5	6.755E-12	)
+	(	29	6.720E-12	)
+	(	29.5	6.695E-12	)
+	(	30	6.675E-12	)
+	(	30.5	6.660E-12	)
+	(	31	6.645E-12	)
+	(	31.5	6.635E-12	)
+	(	32	6.630E-12	)
+	(	32.5	6.630E-12	)
+	(	33	6.630E-12	)
+	(	33.5	6.630E-12	)
+	(	34	6.645E-12	)
+	(	34.5	6.655E-12	)
+	(	35	6.670E-12	)
+	(	35.5	6.685E-12	)
+	(	36	6.710E-12	)
+	(	36.5	6.735E-12	)
+	(	37	6.755E-12	)
+	(	37.5	6.785E-12	)
+	(	38	6.815E-12	)
+	(	38.5	6.855E-12	)
+	(	39	6.890E-12	)
+	(	39.5	6.930E-12	)
+	(	40	6.970E-12	)
+	(	40.5	7.015E-12	)
+	(	41	7.060E-12	)
+	(	41.5	7.110E-12	)
+	(	42	7.170E-12	)
+	(	42.5	7.220E-12	)
+	(	43	7.275E-12	)
+	(	43.5	7.335E-12	)
+	(	44	7.395E-12	)
+	(	44.5	7.455E-12	)
+	(	45	7.520E-12	)
+	(	45.5	7.585E-12	)
+	(	46	7.655E-12	)
+	(	46.5	7.720E-12	)
+	(	47	7.795E-12	)
+	(	47.5	7.865E-12	)
+	(	48	7.940E-12	)
+	(	48.5	8.015E-12	)
+	(	49	8.090E-12	)
+	(	49.5	8.165E-12	)
+	(	50	8.250E-12	)
+	(	50.5	8.325E-12	)
+	(	51	8.410E-12	)
+	(	51.5	8.485E-12	)
+	(	52	8.565E-12	)
+	(	52.5	8.650E-12	)
+	(	53	8.735E-12	)
+	(	53.5	8.820E-12	)
+	(	54	8.905E-12	)
+	(	54.5	8.990E-12	)
+	(	55	9.070E-12	)
+	(	55.5	9.155E-12	)
+	(	56	9.235E-12	)
+	(	56.5	9.320E-12	)
+	(	57	9.405E-12	)
+	(	57.5	9.490E-12	)
+	(	58	9.575E-12	)
+	(	58.5	9.660E-12	)
+	(	59	9.735E-12	)
+	(	59.5	9.820E-12	)
+	(	60	9.905E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	7.556E-09	)
+	(	0.5	6.997E-09	)
+	(	1	6.402E-09	)
+	(	1.5	5.991E-09	)
+	(	2	5.671E-09	)
+	(	2.5	5.387E-09	)
+	(	3	5.116E-09	)
+	(	3.5	4.868E-09	)
+	(	4	4.653E-09	)
+	(	4.5	4.467E-09	)
+	(	5	4.302E-09	)
+	(	5.5	4.152E-09	)
+	(	6	4.013E-09	)
+	(	6.5	3.878E-09	)
+	(	7	3.732E-09	)
+	(	7.5	3.524E-09	)
+	(	8	3.121E-09	)
+	(	8.5	2.578E-09	)
+	(	9	1.989E-09	)
+	(	9.5	1.771E-09	)
+	(	10	1.683E-09	)
+	(	10.5	1.602E-09	)
+	(	11	1.528E-09	)
+	(	11.5	1.461E-09	)
+	(	12	1.398E-09	)
+	(	12.5	1.339E-09	)
+	(	13	1.283E-09	)
+	(	13.5	1.230E-09	)
+	(	14	1.179E-09	)
+	(	14.5	1.131E-09	)
+	(	15	1.085E-09	)
+	(	15.5	1.041E-09	)
+	(	16	1.000E-09	)
+	(	16.5	9.618E-10	)
+	(	17	9.262E-10	)
+	(	17.5	8.940E-10	)
+	(	18	8.646E-10	)
+	(	18.5	8.384E-10	)
+	(	19	8.150E-10	)
+	(	19.5	7.944E-10	)
+	(	20	7.760E-10	)
+	(	20.5	7.597E-10	)
+	(	21	7.456E-10	)
+	(	21.5	7.333E-10	)
+	(	22	7.225E-10	)
+	(	22.5	7.131E-10	)
+	(	23	7.047E-10	)
+	(	23.5	6.972E-10	)
+	(	24	6.905E-10	)
+	(	24.5	6.847E-10	)
+	(	25	6.793E-10	)
+	(	25.5	6.746E-10	)
+	(	26	6.704E-10	)
+	(	26.5	6.666E-10	)
+	(	27	6.632E-10	)
+	(	27.5	6.603E-10	)
+	(	28	6.576E-10	)
+	(	28.5	6.553E-10	)
+	(	29	6.533E-10	)
+	(	29.5	6.516E-10	)
+	(	30	6.501E-10	)
+	(	30.5	6.488E-10	)
+	(	31	6.478E-10	)
+	(	31.5	6.471E-10	)
+	(	32	6.464E-10	)
+	(	32.5	6.461E-10	)
+	(	33	6.459E-10	)
+	(	33.5	6.459E-10	)
+	(	34	6.461E-10	)
+	(	34.5	6.464E-10	)
+	(	35	6.469E-10	)
+	(	35.5	6.476E-10	)
+	(	36	6.484E-10	)
+	(	36.5	6.493E-10	)
+	(	37	6.504E-10	)
+	(	37.5	6.517E-10	)
+	(	38	6.530E-10	)
+	(	38.5	6.545E-10	)
+	(	39	6.562E-10	)
+	(	39.5	6.578E-10	)
+	(	40	6.597E-10	)
+	(	40.5	6.615E-10	)
+	(	41	6.635E-10	)
+	(	41.5	6.656E-10	)
+	(	42	6.678E-10	)
+	(	42.5	6.700E-10	)
+	(	43	6.723E-10	)
+	(	43.5	6.746E-10	)
+	(	44	6.770E-10	)
+	(	44.5	6.794E-10	)
+	(	45	6.818E-10	)
+	(	45.5	6.843E-10	)
+	(	46	6.868E-10	)
+	(	46.5	6.893E-10	)
+	(	47	6.917E-10	)
+	(	47.5	6.942E-10	)
+	(	48	6.967E-10	)
+	(	48.5	6.991E-10	)
+	(	49	7.015E-10	)
+	(	49.5	7.039E-10	)
+	(	50	7.062E-10	)
+	(	50.5	7.085E-10	)
+	(	51	7.107E-10	)
+	(	51.5	7.129E-10	)
+	(	52	7.150E-10	)
+	(	52.5	7.170E-10	)
+	(	53	7.189E-10	)
+	(	53.5	7.208E-10	)
+	(	54	7.227E-10	)
+	(	54.5	7.244E-10	)
+	(	55	7.261E-10	)
+	(	55.5	7.277E-10	)
+	(	56	7.292E-10	)
+	(	56.5	7.306E-10	)
+	(	57	7.319E-10	)
+	(	57.5	7.332E-10	)
+	(	58	7.344E-10	)
+	(	58.5	7.355E-10	)
+	(	59	7.365E-10	)
+	(	59.5	7.375E-10	)
+	(	60	7.384E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*$
